US06242443B1
d) 3-Isopropylamino-7-nitro-4H-1,2,4-benzothiadiazine 1,1-dioxide
3-(Imidazol-1-yl)-7-nitro-4H-1,2,4-benzothiadiazine 1,1-dioxide imidazolium salt was treated with isopropylamine according to the general procedure Method A to give the title compound; m.p. 311-313° C.; IR (KBr): 3363, 3221, 2980, 1657, 1646,1615, 1601, 1572, 1532, 1494, 1339, 1284, 1267, 1155, 1106 cm−1; 1H-NMR (DMSO-d6, HMDS; d ppm): 1.10 (d, 6H, 2×CH3), 3.90 (m, 1H, NH—CH), 7.35 (m, 2H, 5-H+NH—CH), 8.35 (m, 2H, 6-H+8-H), 10.90 (bs, 1H, NH).

reactant | 3-(Imidazol-1-yl)-7-nitro-4H-1,2,4-benzothiadiazine 1,1-dioxide imidazolium salt | [NH+]1=CNC=C1.N1(C=NC=C1)C1=NS(C2=C(N1)C=CC(=C2)[N+](=O)[O-])(=O)=O
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 3-Isopropylamino-7-nitro-4H-1,2,4-benzothiadiazine 1,1-dioxide | C(C)(C)NC1=NS(C2=C(N1)C=CC(=C2)[N+](=O)[O-])(=O)=O | C10H12N4O4S
